.title KiCad schematic
V1 /multiplexer-4-2-1/Vcc 0 dc 5
V2 /A1in 0 dc 5
V3 /A2in 0 dc 5
V4 /A3in 0 dc 5
V5 /A4in 0 dc 5
V9 /B4in 0 dc 5
V8 /B3in 0 dc 5
V7 /B2in 0 dc 5
V6 /B1in 0 dc 5
V10 /SelIn 0 dc 5
R2 /multiplexer-4-2-1/Vcc /multiplexer-4-2-1/Z1 1K
R1 /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-1/mux-2-1-or-1/or-nor-1/Q /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-1/mux-2-1-or-1/or-not-1/Qr 10K
Q1 /multiplexer-4-2-1/Z1 /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-1/mux-2-1-or-1/or-not-1/Qr 0 NPN
R5 /multiplexer-4-2-1/Vcc /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-1/mux-2-1-or-1/or-nor-1/Q 1K
R3 /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-1/mux-2-1-or-1/A /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-1/mux-2-1-or-1/or-nor-1/AorB 10K
R4 /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-1/mux-2-1-or-1/B /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-1/mux-2-1-or-1/or-nor-1/AorB 10K
Q2 /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-1/mux-2-1-or-1/or-nor-1/Q /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-1/mux-2-1-or-1/or-nor-1/AorB 0 NPN
R8 /multiplexer-4-2-1/Vcc /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-1/mux-2-1-or-1/A 1K
R6 /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-1/mux-2-1-and-1/sheet5C364DB7/A /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-1/mux-2-1-and-1/sheet5C364DB7/AorB 10K
R7 /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-1/mux-2-1-and-1/sheet5C364DB7/B /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-1/mux-2-1-and-1/sheet5C364DB7/AorB 10K
Q3 /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-1/mux-2-1-or-1/A /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-1/mux-2-1-and-1/sheet5C364DB7/AorB 0 NPN
R10 /multiplexer-4-2-1/Vcc /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-1/mux-2-1-and-1/sheet5C364DB7/A 1K
R9 /A1in /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-1/mux-2-1-and-1/Sheet5C3654CC/Qr 10K
Q4 /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-1/mux-2-1-and-1/sheet5C364DB7/A /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-1/mux-2-1-and-1/Sheet5C3654CC/Qr 0 NPN
R12 /multiplexer-4-2-1/Vcc /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-1/mux-2-1-and-1/sheet5C364DB7/B 1K
R11 /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-1/mux-2-1-and-1/B /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-1/mux-2-1-and-1/sheet5C366192/Qr 10K
Q5 /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-1/mux-2-1-and-1/sheet5C364DB7/B /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-1/mux-2-1-and-1/sheet5C366192/Qr 0 NPN
R15 /multiplexer-4-2-1/Vcc /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-1/mux-2-1-or-1/B 1K
R13 /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-1/mux-2-1-and-2/sheet5C364DB7/A /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-1/mux-2-1-and-2/sheet5C364DB7/AorB 10K
R14 /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-1/mux-2-1-and-2/sheet5C364DB7/B /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-1/mux-2-1-and-2/sheet5C364DB7/AorB 10K
Q6 /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-1/mux-2-1-or-1/B /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-1/mux-2-1-and-2/sheet5C364DB7/AorB 0 NPN
R17 /multiplexer-4-2-1/Vcc /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-1/mux-2-1-and-2/sheet5C364DB7/A 1K
R16 /SelIn /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-1/mux-2-1-and-2/Sheet5C3654CC/Qr 10K
Q7 /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-1/mux-2-1-and-2/sheet5C364DB7/A /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-1/mux-2-1-and-2/Sheet5C3654CC/Qr 0 NPN
R19 /multiplexer-4-2-1/Vcc /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-1/mux-2-1-and-2/sheet5C364DB7/B 1K
R18 /B1in /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-1/mux-2-1-and-2/sheet5C366192/Qr 10K
Q8 /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-1/mux-2-1-and-2/sheet5C364DB7/B /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-1/mux-2-1-and-2/sheet5C366192/Qr 0 NPN
R21 /multiplexer-4-2-1/Vcc /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-1/mux-2-1-and-1/B 1K
R20 /SelIn /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-1/mux-2-1-not-1/Qr 10K
Q9 /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-1/mux-2-1-and-1/B /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-1/mux-2-1-not-1/Qr 0 NPN
R23 /multiplexer-4-2-1/Vcc /multiplexer-4-2-1/Z2 1K
R22 /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-2/mux-2-1-or-1/or-nor-1/Q /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-2/mux-2-1-or-1/or-not-1/Qr 10K
Q10 /multiplexer-4-2-1/Z2 /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-2/mux-2-1-or-1/or-not-1/Qr 0 NPN
R26 /multiplexer-4-2-1/Vcc /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-2/mux-2-1-or-1/or-nor-1/Q 1K
R24 /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-2/mux-2-1-or-1/A /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-2/mux-2-1-or-1/or-nor-1/AorB 10K
R25 /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-2/mux-2-1-or-1/B /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-2/mux-2-1-or-1/or-nor-1/AorB 10K
Q11 /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-2/mux-2-1-or-1/or-nor-1/Q /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-2/mux-2-1-or-1/or-nor-1/AorB 0 NPN
R29 /multiplexer-4-2-1/Vcc /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-2/mux-2-1-or-1/A 1K
R27 /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-2/mux-2-1-and-1/sheet5C364DB7/A /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-2/mux-2-1-and-1/sheet5C364DB7/AorB 10K
R28 /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-2/mux-2-1-and-1/sheet5C364DB7/B /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-2/mux-2-1-and-1/sheet5C364DB7/AorB 10K
Q12 /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-2/mux-2-1-or-1/A /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-2/mux-2-1-and-1/sheet5C364DB7/AorB 0 NPN
R31 /multiplexer-4-2-1/Vcc /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-2/mux-2-1-and-1/sheet5C364DB7/A 1K
R30 /A2in /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-2/mux-2-1-and-1/Sheet5C3654CC/Qr 10K
Q13 /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-2/mux-2-1-and-1/sheet5C364DB7/A /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-2/mux-2-1-and-1/Sheet5C3654CC/Qr 0 NPN
R33 /multiplexer-4-2-1/Vcc /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-2/mux-2-1-and-1/sheet5C364DB7/B 1K
R32 /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-2/mux-2-1-and-1/B /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-2/mux-2-1-and-1/sheet5C366192/Qr 10K
Q14 /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-2/mux-2-1-and-1/sheet5C364DB7/B /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-2/mux-2-1-and-1/sheet5C366192/Qr 0 NPN
R36 /multiplexer-4-2-1/Vcc /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-2/mux-2-1-or-1/B 1K
R34 /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-2/mux-2-1-and-2/sheet5C364DB7/A /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-2/mux-2-1-and-2/sheet5C364DB7/AorB 10K
R35 /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-2/mux-2-1-and-2/sheet5C364DB7/B /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-2/mux-2-1-and-2/sheet5C364DB7/AorB 10K
Q15 /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-2/mux-2-1-or-1/B /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-2/mux-2-1-and-2/sheet5C364DB7/AorB 0 NPN
R38 /multiplexer-4-2-1/Vcc /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-2/mux-2-1-and-2/sheet5C364DB7/A 1K
R37 /SelIn /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-2/mux-2-1-and-2/Sheet5C3654CC/Qr 10K
Q16 /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-2/mux-2-1-and-2/sheet5C364DB7/A /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-2/mux-2-1-and-2/Sheet5C3654CC/Qr 0 NPN
R40 /multiplexer-4-2-1/Vcc /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-2/mux-2-1-and-2/sheet5C364DB7/B 1K
R39 /B2in /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-2/mux-2-1-and-2/sheet5C366192/Qr 10K
Q17 /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-2/mux-2-1-and-2/sheet5C364DB7/B /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-2/mux-2-1-and-2/sheet5C366192/Qr 0 NPN
R42 /multiplexer-4-2-1/Vcc /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-2/mux-2-1-and-1/B 1K
R41 /SelIn /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-2/mux-2-1-not-1/Qr 10K
Q18 /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-2/mux-2-1-and-1/B /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-2/mux-2-1-not-1/Qr 0 NPN
R44 /multiplexer-4-2-1/Vcc /multiplexer-4-2-1/Z3 1K
R43 /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-3/mux-2-1-or-1/or-nor-1/Q /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-3/mux-2-1-or-1/or-not-1/Qr 10K
Q19 /multiplexer-4-2-1/Z3 /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-3/mux-2-1-or-1/or-not-1/Qr 0 NPN
R47 /multiplexer-4-2-1/Vcc /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-3/mux-2-1-or-1/or-nor-1/Q 1K
R45 /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-3/mux-2-1-or-1/A /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-3/mux-2-1-or-1/or-nor-1/AorB 10K
R46 /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-3/mux-2-1-or-1/B /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-3/mux-2-1-or-1/or-nor-1/AorB 10K
Q20 /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-3/mux-2-1-or-1/or-nor-1/Q /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-3/mux-2-1-or-1/or-nor-1/AorB 0 NPN
R50 /multiplexer-4-2-1/Vcc /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-3/mux-2-1-or-1/A 1K
R48 /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-3/mux-2-1-and-1/sheet5C364DB7/A /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-3/mux-2-1-and-1/sheet5C364DB7/AorB 10K
R49 /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-3/mux-2-1-and-1/sheet5C364DB7/B /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-3/mux-2-1-and-1/sheet5C364DB7/AorB 10K
Q21 /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-3/mux-2-1-or-1/A /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-3/mux-2-1-and-1/sheet5C364DB7/AorB 0 NPN
R52 /multiplexer-4-2-1/Vcc /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-3/mux-2-1-and-1/sheet5C364DB7/A 1K
R51 /A3in /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-3/mux-2-1-and-1/Sheet5C3654CC/Qr 10K
Q22 /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-3/mux-2-1-and-1/sheet5C364DB7/A /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-3/mux-2-1-and-1/Sheet5C3654CC/Qr 0 NPN
R54 /multiplexer-4-2-1/Vcc /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-3/mux-2-1-and-1/sheet5C364DB7/B 1K
R53 /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-3/mux-2-1-and-1/B /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-3/mux-2-1-and-1/sheet5C366192/Qr 10K
Q23 /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-3/mux-2-1-and-1/sheet5C364DB7/B /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-3/mux-2-1-and-1/sheet5C366192/Qr 0 NPN
R57 /multiplexer-4-2-1/Vcc /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-3/mux-2-1-or-1/B 1K
R55 /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-3/mux-2-1-and-2/sheet5C364DB7/A /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-3/mux-2-1-and-2/sheet5C364DB7/AorB 10K
R56 /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-3/mux-2-1-and-2/sheet5C364DB7/B /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-3/mux-2-1-and-2/sheet5C364DB7/AorB 10K
Q24 /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-3/mux-2-1-or-1/B /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-3/mux-2-1-and-2/sheet5C364DB7/AorB 0 NPN
R59 /multiplexer-4-2-1/Vcc /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-3/mux-2-1-and-2/sheet5C364DB7/A 1K
R58 /SelIn /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-3/mux-2-1-and-2/Sheet5C3654CC/Qr 10K
Q25 /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-3/mux-2-1-and-2/sheet5C364DB7/A /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-3/mux-2-1-and-2/Sheet5C3654CC/Qr 0 NPN
R61 /multiplexer-4-2-1/Vcc /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-3/mux-2-1-and-2/sheet5C364DB7/B 1K
R60 /B3in /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-3/mux-2-1-and-2/sheet5C366192/Qr 10K
Q26 /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-3/mux-2-1-and-2/sheet5C364DB7/B /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-3/mux-2-1-and-2/sheet5C366192/Qr 0 NPN
R63 /multiplexer-4-2-1/Vcc /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-3/mux-2-1-and-1/B 1K
R62 /SelIn /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-3/mux-2-1-not-1/Qr 10K
Q27 /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-3/mux-2-1-and-1/B /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-3/mux-2-1-not-1/Qr 0 NPN
R65 /multiplexer-4-2-1/Vcc /multiplexer-4-2-1/Z4 1K
R64 /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-4/mux-2-1-or-1/or-nor-1/Q /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-4/mux-2-1-or-1/or-not-1/Qr 10K
Q28 /multiplexer-4-2-1/Z4 /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-4/mux-2-1-or-1/or-not-1/Qr 0 NPN
R68 /multiplexer-4-2-1/Vcc /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-4/mux-2-1-or-1/or-nor-1/Q 1K
R66 /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-4/mux-2-1-or-1/A /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-4/mux-2-1-or-1/or-nor-1/AorB 10K
R67 /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-4/mux-2-1-or-1/B /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-4/mux-2-1-or-1/or-nor-1/AorB 10K
Q29 /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-4/mux-2-1-or-1/or-nor-1/Q /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-4/mux-2-1-or-1/or-nor-1/AorB 0 NPN
R71 /multiplexer-4-2-1/Vcc /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-4/mux-2-1-or-1/A 1K
R69 /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-4/mux-2-1-and-1/sheet5C364DB7/A /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-4/mux-2-1-and-1/sheet5C364DB7/AorB 10K
R70 /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-4/mux-2-1-and-1/sheet5C364DB7/B /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-4/mux-2-1-and-1/sheet5C364DB7/AorB 10K
Q30 /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-4/mux-2-1-or-1/A /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-4/mux-2-1-and-1/sheet5C364DB7/AorB 0 NPN
R73 /multiplexer-4-2-1/Vcc /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-4/mux-2-1-and-1/sheet5C364DB7/A 1K
R72 /A4in /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-4/mux-2-1-and-1/Sheet5C3654CC/Qr 10K
Q31 /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-4/mux-2-1-and-1/sheet5C364DB7/A /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-4/mux-2-1-and-1/Sheet5C3654CC/Qr 0 NPN
R75 /multiplexer-4-2-1/Vcc /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-4/mux-2-1-and-1/sheet5C364DB7/B 1K
R74 /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-4/mux-2-1-and-1/B /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-4/mux-2-1-and-1/sheet5C366192/Qr 10K
Q32 /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-4/mux-2-1-and-1/sheet5C364DB7/B /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-4/mux-2-1-and-1/sheet5C366192/Qr 0 NPN
R78 /multiplexer-4-2-1/Vcc /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-4/mux-2-1-or-1/B 1K
R76 /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-4/mux-2-1-and-2/sheet5C364DB7/A /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-4/mux-2-1-and-2/sheet5C364DB7/AorB 10K
R77 /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-4/mux-2-1-and-2/sheet5C364DB7/B /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-4/mux-2-1-and-2/sheet5C364DB7/AorB 10K
Q33 /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-4/mux-2-1-or-1/B /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-4/mux-2-1-and-2/sheet5C364DB7/AorB 0 NPN
R80 /multiplexer-4-2-1/Vcc /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-4/mux-2-1-and-2/sheet5C364DB7/A 1K
R79 /SelIn /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-4/mux-2-1-and-2/Sheet5C3654CC/Qr 10K
Q34 /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-4/mux-2-1-and-2/sheet5C364DB7/A /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-4/mux-2-1-and-2/Sheet5C3654CC/Qr 0 NPN
R82 /multiplexer-4-2-1/Vcc /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-4/mux-2-1-and-2/sheet5C364DB7/B 1K
R81 /B4in /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-4/mux-2-1-and-2/sheet5C366192/Qr 10K
Q35 /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-4/mux-2-1-and-2/sheet5C364DB7/B /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-4/mux-2-1-and-2/sheet5C366192/Qr 0 NPN
R84 /multiplexer-4-2-1/Vcc /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-4/mux-2-1-and-1/B 1K
R83 /SelIn /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-4/mux-2-1-not-1/Qr 10K
Q36 /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-4/mux-2-1-and-1/B /multiplexer-4-2-1/multiplexer-4-2-1-mux-1-2-1-4/mux-2-1-not-1/Qr 0 NPN
.end
